US04766212
Cis-3,4,4a,5,6,11b-Hexahydro-2H-[1]benzoxepino[5,4-b]-1,4-oxazine maleate
Cis-4a,5,6,11b-tetrahydro-2H-[1]benzoxepino[5,4-b]-1,4-oxazine-3(4H)-one (0.01M) was added via a solution funnel to a suspension of 0.005M lithium aluminum hydride in 100 ml of dry tetrahydrofuran. The mixture was refluxed for five hours, cooled in ice and decomposed with 15% NaOH. After stirring overnight the mixture was filtered and the solvent removed from the filtrate. The residue was dissolved in ether and treated with a solution of maleic acid in ether to give the title compound. An analytical sample was recrystallized from ethyl acetate, mp. 197°-198° C. (dec.).

reactant | Cis-4a,5,6,11b-tetrahydro-2H-[1]benzoxepino[5,4-b]-1,4-oxazine-3(4H)-one | 0.01M | O1[C@@H]2[C@H](NC(C1)=O)CCOC1=C2C=CC=C1 | C12H13NO3
reactant | lithium aluminum hydride | 0.005M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | [OH-].[Na+]
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Cis-3,4,4a,5,6,11b-Hexahydro-2H-[1]benzoxepino[5,4-b]-1,4-oxazine maleate | C(\C=C/C(=O)O)(=O)O.O1[C@@H]2[C@H](NCC1)CCOC1=C2C=CC=C1 | InChI=1S/C12H15NO2.C4H4O4/c1-2-4-11-9(3-1)12-10(5-7-14-11)13-6-8-15-12;5-3(6)1-2-4(7)8/h1-4,10,12-13H,5-8H2;1-2H,(H,5,6)(H,7,8)/b;2-1-/t10-,12+;/m1./s1
